US03953499
A mixture of 11.0 g. of 1-chloro-14-methyl-nonadeca-7,10-diyn-13-ene, 1.5 g. of 5% palladium on barium sulfate, and 80 ml. of pyridine was shaken in a Parr rocker under 40 lb. of hydrogen pressure for about 1.3 hrs., at which time two moles of hydrogen had been absorbed. The reaction mixture was then poured into water and extracted with ether. The extract was washed with water, dilute hydrochloric acid, saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated leaving a residue comprising 1-chloro-14-methyl-7,10,13-nonadecatriene. The residue was distilled in a rocking short-path distillation apparatus, collecting 7.6 g. of a mixture comprising 1-chloro-14-methyl-7,10,13-nonadecatriene at a bath temperature of 180°C. and a pressure of 0.005 mm.

reactant | 1-chloro-14-methyl-nonadeca-7,10-diyn-13-ene | ClCCCCCCC#CCC#CCC=C(CCCCC)C | C20H31Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | two moles | [H][H] | H2
catalyst | palladium on barium sulfate | [Pd] | Pd
solvent | water | O | H2O
product | 1-chloro-14-methyl-7,10,13-nonadecatriene | ClCCCCCCC=CCC=CCC=C(CCCCC)C | C20H35Cl
